US04473630
175.4 g of diethylamine and 152.5 g of chloromethylstyrene (mixture of m- and p- compounds) were dissolved in 300 ml of toluene, and the resulting solution was heated to 60°-70° C. for 13 hours. Diethylamine hydrochloride was separated during the progress of the reaction. After the hydrochloride was filtered out, the filtrate was washed with water. The toluene phase was dried with anhydrous sodium sulfate and thereafter concentrated. After adding 1 g of di-tert-butylcatechol, reduced pressure distillation was carried out to obtain 120.2 g of diethylaminomethylstyrene. (b.p.: 60° C./2 mm Hg, colorless liquid)

reactant | diethylamine | 175.4 g | C(C)NCC | C4H11N
reactant | chloromethylstyrene | 152.5 g | ClCC=CC1=CC=CC=C1 | C9H9Cl
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | diethylaminomethylstyrene | 120.2 g | C(C)N(CC)CC=CC1=CC=CC=C1 | C13H19N
